US07056916B2
(d) 6-benzyloxy-8-{2-[2-[4-fluoro-2-methylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one
Prepared analogously to the method for Example 8(d) from 0.95 g (2.66 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 0.43 g (2.37 mmol) of 2-(4-fluoro-2-methylphenyl)-1,1-dimethylethylamine. Yield: 0.75 g (55%, hydrochloride); melting point 233° C.–236° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 2.66 mmol, 0.95 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | 2-(4-fluoro-2-methylphenyl)-1,1-dimethylethylamine | 2.37 mmol, 0.43 g | FC1=CC(=C(C=C1)CC(C)(C)N)C | C11H16FN
reactant | hydrochloride | Cl | ClH
product | 6-benzyloxy-8-{2-[2-[4-fluoro-2-methylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=C(C=C(C=C1)F)C)(C)C)O | C28H31FN2O4
